US09371319B2
Preparation 92: 2-Chloro-4-(5-methylisoxazol-4-yl)aniline
Prepared according to Method B (Preparation 83) using 4-iodo-5-methylisoxazole and 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline in DME/H2O 1/1 (1.4 mL). The reaction mixture was stirred at 80° C. for 7 hours before being diluted with EtOAc and quenched with water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude mixture was purified using Biotage silica gel column chromatography eluting with Cyclohexane/EtOAc 99/1 to 80/20 to give the title product as a colourless oil (36 mg, 44%). 1H NMR (500 MHz, CDCl3): δ 2.54 (s, 3H), 4.16 (br s, 2H), 6.83 (d, J=8.2 Hz, 1H), 7.09 (dd, J=8.2, 2.0 Hz, 1H), 7.27 (d, J=2.0 Hz, 1H), 8.28 (s, 1H).

reactant | 4-iodo-5-methylisoxazole | IC=1C=NOC1C | C4H4INO
reactant | 2-chloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | ClC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
solvent | DME H2O | 1.4 mL | COCCOC.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloro-4-(5-methylisoxazol-4-yl)aniline | 36 mg, 44% | ClC1=C(N)C=CC(=C1)C=1C=NOC1C | C10H9ClN2O
